US06630469B2
4,6-Dichloro-N2-[(1S)-1-phenylethyl]-1,3,5-triazine-2-amine (Intermediate of Formula XXIII)
To a solution of cyanuric chloride (25.0 g, 0.135 mol), diisopropylethylamine (17.5 g, 0.135 mol) in THF (500 mL) at 0° C. was added dropwise a solution of (1S)-1-phenylethylamine (16.4 g, 0.135 mol) in THF (100 mL) while maintaining the reaction temperature at or near 0° C. The reaction mixture was allowed to warm to ambient temperature then was concentrated under reduced pressure. The residue was dissolved in EtOAc (500 mL) and extracted with 1 N HCl (250 mL), H2O (250 mL) and brine (250 mL). The organic layer was dried over sodium sulfate, filtered and concentrated under reduced pressure to afford the titled compound as a white solid (35 g, 96%) MP 146-147° 1H NMR (CDCl3) δ 7.39 (m, 5H), 6.40 (b d, 1H), 5.25 (m, 1H), 1.59 (d, 3H); MS (ESI+) (M+) 269.1 obs.

reactant | cyanuric chloride | 0.135 mol, 25.0 g | N1=C(Cl)N=C(Cl)N=C1Cl | C3Cl3N3
reactant | diisopropylethylamine | 0.135 mol, 17.5 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | (1S)-1-phenylethylamine | 0.135 mol, 16.4 g | C1(=CC=CC=C1)[C@H](C)N | C8H11N
solvent | THF | 500 mL | C1CCOC1 | C4H8O
solvent | THF | 100 mL | C1CCOC1 | C4H8O
product | 4,6-Dichloro-N2-[(1S)-1-phenylethyl]-1,3,5-triazine-2-amine | 35 g, 96% | ClC1=NC(=NC(=N1)Cl)N[C@@H](C)C1=CC=CC=C1 | C11H10Cl2N4
